US06943159B1
1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide:
2-Aminobenzene-sulfonamide was transformed by Method E (using 4-chlorobutanoyl chloride).

reactant | 2-Aminobenzene-sulfonamide | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | 4-chlorobutanoyl chloride | ClCCCC(=O)Cl | C4H6Cl2O
product | 1,2,3,5-tetrahydrobenzo[e]pyrrolo[2,1-c]-1,2,4-thiadiazine-5,5-dioxide | C1CCC2=NS(C3=C(N21)C=CC=C3)(=O)=O | C10H10N2O2S
